US07728029B2
To a solution of hydrazine monohydrate (44.0 mL, 1.00 mol) in ethanol (75 mL) at 0° C. in an ice-water bath was added 1-(2-bromoethoxy)-2-methoxyethane (13.6 mL, 0.100 mol) drop-wise over 20 minutes. The reaction was then allowed to warm to room temperature and stir for 5 minutes and then heated to 40° C. in a preheated oil bath for 12 hours. The reaction was then cooled to room temperature and concentrated to remove the ethanol. The remaining aqueous layer was extracted with methylene chloride (2×100 mL) and diethyl ether (2×100 mL). The organic layers were combined and dried over anhydrous Na2SO4, filtered and concentrated to provide [2-(2-methoxyethoxy)-ethyl]-hydrazine as a light yellow oil (10.29 g, 85%).

reactant | hydrazine monohydrate | 1.00 mol, 44.0 mL | O.NN
reactant | 1-(2-bromoethoxy)-2-methoxyethane | 0.100 mol, 13.6 mL | BrCCOCCOC | C5H11BrO2
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | [2-(2-methoxyethoxy)-ethyl]-hydrazine | 10.29 g, 85% | COCCOCCNN | C5H14N2O2
